US03963706
d. 1-Cyclohexyl-3-(4-aminophenyl)-imidazolidin-4-one
1-Cyclohexyl-3-(4-nitrophenyl)-imidazolidin-4-one (2.9g) was dissolved in ethanol (500 ml) and 200 mg Raney nickel added. The mixture was then hydrogenated.

reactant | 1-Cyclohexyl-3-(4-nitrophenyl)-imidazolidin-4-one | 2.9g | C1(CCCCC1)N1CN(C(C1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H19N3O3
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Raney nickel | 200 mg | [Ni] | Ni
product | 1-Cyclohexyl-3-(4-aminophenyl)-imidazolidin-4-one | C1(CCCCC1)N1CN(C(C1)=O)C1=CC=C(C=C1)N | C15H21N3O
